US07247645B2
208 mg (2.06 mmol) of acetoacetamide, 0.23 ml (2.00 mmol) of 3-chlorobenzaldehyde and 0.02 ml (0.20 mmol) of piperidine were heated under reflux in the presence of a catalytic amount of p-toluenesulfonic acid in 30 ml of benzene overnight while removing water. Ethyl acetate was added to the reaction mixture and they were washed with 1 N hydrochloric acid and then with saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain 2-acetyl-3-(3-chlorophenyl)acrylamide. 10 ml of 2-propanol and 486 mg (1.65 mmol) of (3,3-diphenylpropane-1-yl)3-aminocrotonate were added to the obtained product, and they were stirred under heating at 80° C. overnight. 2-Propanol was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/2) to obtain the title compound.

reactant | acetoacetamide | 2.06 mmol, 208 mg | C(CC(=O)C)(=O)N | C4H7NO2
reactant | 3-chlorobenzaldehyde | 2.00 mmol, 0.23 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.20 mmol, 0.02 ml | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-acetyl-3-(3-chlorophenyl)acrylamide | C(C)(=O)C(C(=O)N)=CC1=CC(=CC=C1)Cl | C11H10ClNO2
